US05262420
Preparation of 1-phenyl-3-(3-methyl-4-pyridyl)-butane
1.13 g (9.35 mmol) of 3-methyl-4-ethylpyridine and 1.73 g (9.35 mmol) of phenethyl bromide were reacted in the same manner as in Example 1. The reaction product was purified to obtain 1.36 g of the desired compound (yield: 64.5%).

reactant | 3-methyl-4-ethylpyridine | 9.35 mmol, 1.13 g | CC=1C=NC=CC1CC | C8H11N
reactant | phenethyl bromide | 9.35 mmol, 1.73 g | C(CC1=CC=CC=C1)Br | C8H9Br
product | 1-phenyl-3-(3-methyl-4-pyridyl)-butane | 1.36 g, yield: 64.5% | C1(=CC=CC=C1)CCC(C)C1=C(C=NC=C1)C | C16H19N
